US05504082
2-((3-Methyl-4-(2-(4-acetylpiperazin-l-yl)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole (38 g) was dissolved in 6N hydrochloric acid and the mixture was stirred at 50° C. for 2 hours. After the completion of the reaction, the mixture was made alkaline with potassium carbonate and extracted with a mixed solvent of chloroform-methanol. The chloroform-methanol layer was dried over anhydrous magnesium sulfate, the solvent was distilled away and the residue was recrystallized from ethanol to give 2-((3-methyl-4-(2-(piperazin-l-yl)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole as crystals, melting point 166°-168° C.

reactant | 2-((3-Methyl-4-(2-(4-acetylpiperazin-l-yl)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole | 38 g | CC=1C(=NC=CC1SCCN1CCN(CC1)C(C)=O)CSC1=NC2=C(N1)C=CC=C2 | C22H27N5OS2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 6N | Cl | ClH
product | 2-((3-methyl-4-(2-(piperazin-l-yl)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole | CC=1C(=NC=CC1SCCN1CCNCC1)CSC1=NC2=C(N1)C=CC=C2 | C20H25N5S2
